US07713979B2
Dissolve 8-methyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid (Chem. Pharm. Bull., 1984, 32(6), 2267-2278) (10.9 g, 54.4 mmol) in benzene (500 mL). Add triethylamine (6.61 g, 65.32 mmol), diphenylphosphoryl azide (16.48 g, 59.88 mmol), and benzyl alcohol (8.83 g, 81.66 mmol) under nitrogen. Stir and heat the reaction mixture to 80° C. Continue to heat the reaction at 80° C. for 8 hours, then cool to room temperature. Add water (500 mL), and extract the aqueous layer with ethyl acetate (3×500 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 5-25% of EtOAc/Hexane) to give 13.45 g (81%) of (8-Methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamic acid benzyl ester as a colorless oil.

reactant | 8-methyl-1,4-dioxa-spiro[4.5]decane-8-carboxylic acid | 54.4 mmol, 10.9 g | CC1(CCC2(OCCO2)CC1)C(=O)O | C10H16O4
reactant | triethylamine | 65.32 mmol, 6.61 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 59.88 mmol, 16.48 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 81.66 mmol, 8.83 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | (8-Methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-carbamic acid benzyl ester | 13.45 g, 81% | C(C1=CC=CC=C1)OC(NC1(CCC2(OCCO2)CC1)C)=O | C17H23NO4
